US08859591B2
A round bottom flask was charged with 4-pivaloylbenzoic acid (7.67 g, 37.2 mmol), ethyl 3-aminopropanoate hydrochloride (6.86 g, 44.6 mmol), HOAT (5.57 g, 40.9 mmol), DCM (93 mL) and TEA (7.80 mL, 55.8 mmol). EDC hydrochloride (7.92 g, 40.9 mmol) was then added in one portion and the reaction allowed to stir at room temperature for 2 hours. DCM added to the reaction mixture and organics washed with an ammonium chloride solution (sat. aq.; 1×), water (2×), brine (1×), dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the crude material. Purification by silica gel flash chromatography (ethyl acetate/heptane) provide ethyl 3-(4-pivaloylbenzamido)propanoate as a yellow oil (4.25 g, 37.4%; over 3 steps). 1H NMR (400 MHz, CDCl3) δ 1.26 (m, J=7.02, 7.02 Hz, 3H) 1.32 (s, 9H) 2.63 (t, J=5.95 Hz, 2H) 3.72 (m, J=6.05, 6.05, 6.05 Hz, 2H) 4.16 (m, J=7.22, 7.22, 7.22 Hz, 2H) 6.92 (br. s., 1H) 7.64-7.68 (m, 2H) 7.75-7.79 (m, 2H); MS (M+1): 306.3.

reactant | 4-pivaloylbenzoic acid | 37.2 mmol, 7.67 g | C(C(C)(C)C)(=O)C1=CC=C(C(=O)O)C=C1 | C12H14O3
reactant | ethyl 3-aminopropanoate hydrochloride | 44.6 mmol, 6.86 g | Cl.NCCC(=O)OCC
reactant | HOAT | 40.9 mmol, 5.57 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC hydrochloride | 40.9 mmol, 7.92 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 93 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-(4-pivaloylbenzamido)propanoate | C(C(C)(C)C)(=O)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1 | C17H23NO4
